* Extract and plot SFQ pulse width and height extracted from the pulses
* on a Josephson transmission line, as a function of junction critical
* current density.  This demonstrates varions WRspice features, including
* scripting, shell expansion, trhe .measure statement, and single-quote
* expression evaluation.
*
* Warning:  This file probably requires WRspice-4.3.3 or later.
* Warning:  This uses WRspice extensions, file is not portable.

* Ic = .2mA @ 100 uA/u^2  (10KA/cm^2) (given)
* Cj = 65fF/u^2  (assumption) => C = .13pF
* Bc = 1.0 => IcCR^2 = 1/pi => R = 3.5
* L = 5.2pH (given)
* Bl = 2pi(LIc/phi0) = 2pi(5.2*.2/2.07) ~ pi

*.noexec
*.options Lval=2.6p Rnval=3 Cval=160f Ibval=180
.options Lval=2.6p Rnval=4.9 Cval=68f Ibval=160
*.options steptype=nousertp

.control

# Generate a table of pulse width and amplitude
compose rn values 3.0 3.5 4.0
compose cv values 100f 130f 160f
compose ib values 140 160 180
set Lval = 2.6p
let I=0
while I < 3
    let J = 0
    while J < 3
        let K = 0;
        while K < 3
            set Rnval = $&rn[$&I]
            set Cval = $&cv[$&J]
            set Ibval = $&ib[$&K]
            echo -n "Rn=$Rnval C=$Cval Ib=$Ibval : "
            reset
            run
            echo pw=$&pw[0] vp=$&pw[1]
            free p y
            K = K+1
        end
        J = J+1
    end
    I = I+1
end

# Plot pulse width and amplitude vs Jc for values below
compose Jc values 5000 10000 20000 50000
set Lval = 2.6p
let I = 0
while I < 4
    let C = 1e4*130f/Jc[$&I]
    let Rn = sqrt(1/(pi*0.2*C*1e12))
    set Rnval = $&Rn
    set Cval = $&C
    set Ibval = 160
    echo -n "Rn=$Rnval C=$Cval Ib=$Ibval : "
    reset
    run
    echo pw=$&pw[0] vp=$&pw[1]
    if (I > 0)
        combine
    end
    I = I + 1
end
pick width 0 2 pw
pick ampl 1 2 pw
settype s width
settype v ampl
plot width ampl vs Jc

edit
.endc

.save v(5)
* Josephson transmission line, 10 junctions
.subckt jtl 1 10
b1 1 0 100 jj1
l1 1 2 $Lval
b2 2 0 101 jj1
l2 2 3 $Lval
b3 3 0 102 jj1
l3 3 4 $Lval
b4 4 0 103 jj1
l4 4 5 $Lval
b5 5 0 104 jj1
l5 5 6 $Lval
b6 6 0 105 jj1
l6 6 7 $Lval
b7 7 0 106 jj1
l7 7 8 $Lval
b8 8 0 107 jj1
l8 8 9 $Lval
b9 9 0 108 jj1
l9 9 10 $Lval
r1 1 50 1000
r2 2 50 1000
r3 3 50 1000
r4 4 50 1000
r5 5 50 1000
r6 6 50 1000
r7 7 50 1000
r8 8 50 1000
r9 9 50 1000
vs 50 0 pulse(0 '$Ibval/1000' 0p 5p)
.ends

vs 50 0 pulse(0 '$Ibval/1000' 0p 5p)
r1 50 1 1000
i1 0 1 pulse(0 .5m 10p 1p 1p 2p)
b0 1 0 100 jj1
l1 1 2 $Lval
x1 2 3 jtl
x2 3 4 jtl
x3 4 5 jtl
x4 5 6 jtl
x5 6 10 jtl
** retrigger
vx 20 0 1.5*v(10)
rx 20 1 1
ry 10 0 1
.tran .1p 350p
* use v(5) to measure pulse width
.plot tran v(1) v(5)

.measure tran t1 trig v(5) val=.6m rise=3
.measure tran t2 trig v(5) val=.6m rise=4
.measure tran pw trig t1 td=20p targ t2 td=20p pw v(5) max v(5)

* Below,
* Level=1 selects the internal JJ model.
* Level=2 selects the example Verilog-A JJ model, if loaded (with
* the devload command).
*
.model jj1 jj(level=1, icrit=0.2m, cap=$Cval, vshunt='$Rnval*0.2m')

